US04493843
A mixture of 3-(n-decanamido)-4-methylbenzoic acid (6.0 g) and potassium tert-butoxide (23.5 g) was treated in a similar manner to that described hereinbefore in Example 1 to give a solid which was recrystallised from ethanol to give 2-(n-nonyl)indole-6-carboxylic acid (4.1 g), in the form of colourless crystals, m.p. 166°-169° C.

reactant | 3-(n-decanamido)-4-methylbenzoic acid | 6.0 g | C(CCCCCCCCC)(=O)NC=1C=C(C(=O)O)C=CC1C | C18H27NO3
reactant | potassium tert-butoxide | 23.5 g | CC(C)([O-])C.[K+]
product | 2-(n-nonyl)indole-6-carboxylic acid | 4.1 g | C(CCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C18H25NO2
